US07417047B2
Preparation of 3-(3-ethynylphenyl)-2-fluoropyridine
To a solution of 2-fluoro-3-{3-[(trimethylsilyl)ethynyl]phenyl}pyridine (2.20 g, 8.1 mmol) in MeOH/CH2Cl2 (1/1, 60 mL) is added Cs2CO3 (3.17 g, 9.7 mmol) at room temperature. After stirring for 1 h, the reaction mixture is diluted with CH2Cl2 and passed through a thin layer of silica gel. The solution is concentrated and the crude material is purified by chromatography (silica gel, EtOAc/hexane: 20/80) to give the title compound (1.23 g, 77%) as a solid. mp: 45-47° C. MS (+) EI: 198 M+.

reactant | 2-fluoro-3-{3-[(trimethylsilyl)ethynyl]phenyl}pyridine | 8.1 mmol, 2.20 g | FC1=NC=CC=C1C1=CC(=CC=C1)C#C[Si](C)(C)C | C16H16FNSi
reactant | Cs2CO3 | 9.7 mmol, 3.17 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeOH CH2Cl2 | 60 mL | CO.C(Cl)Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(3-ethynylphenyl)-2-fluoropyridine | 1.23 g, 77% | C(#C)C=1C=C(C=CC1)C=1C(=NC=CC1)F | C13H8FN
